US04723011
Preparation of ethyl 5-ethyl-2-methylnicotinate
A mixture of ethacrolein (12.8 g 0.152 mole) and ammonium acetate (24.4 g 0.304 mole) in 50 cc acetonitrile is stirred at room temperature and a solution of ethyl 2-chloroacetoacetate (25 g 0.152 mole) in 30 cc acetonitrile is added dropwise over 15 minutes. The reaction mixture is heated at reflux for 16 hours, cooled, and partitioned between water and ethyl acetate. The organic phase is concentrated in vacuo and chromatographed on silica gel using 9:1 hexane-ethylacetate to afford 12.7 g of the title product.

reactant | ethacrolein | 0.152 mole, 12.8 g | CCC(=C)C=O | C5H8O
reactant | ammonium acetate | 0.304 mole, 24.4 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl 2-chloroacetoacetate | 0.152 mole, 25 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | acetonitrile | 30 cc | C(C)#N | C2H3N
product | ethyl 5-ethyl-2-methylnicotinate | 12.7 g | C(C)C=1C=NC(=C(C(=O)OCC)C1)C | C11H15NO2
